US04150134
1-(2-dimethylaminoethoxy)-10-methyl-9(10H)-acridinone [IV; R' is CH3, R" is H, --O--Y--N=Z is 1--O--CH2CH2N(CH3)2 ], hydrochloride salt, m.p. 237°-241° C. (tan granules from methanol-ether). The intermediate 1-chloro-10-methyl-9(10H)-acridinone, m.p. 183°-186° C. (pale yellow granules from ethanol) was prepared by N-methylation of 1-chloro-9(10H)-acridinone, in turn prepared by cyclization of 2-(m-chlorophenylamino)benzoic acid with sulfuric acid.

reactant | 1-(2-dimethylaminoethoxy)-10-methyl-9(10H)-acridinone | CN(CCOC1=CC=CC=2N(C3=CC=CC=C3C(C12)=O)C)C | C18H20N2O2
reactant | 1-chloro-9(10H)-acridinone | ClC1=CC=CC=2NC3=CC=CC=C3C(C12)=O | C13H8ClNO
reactant | 2-(m-chlorophenylamino)benzoic acid | ClC=1C=C(C=CC1)NC1=C(C(=O)O)C=CC=C1 | C13H10ClNO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | C(C)O | C2H6O
product | 1-chloro-10-methyl-9(10H)-acridinone | ClC1=CC=CC=2N(C3=CC=CC=C3C(C12)=O)C | C14H10ClNO
